US07592361B2
Preparation of 1-(2-bromo-ethoxy)-2-chloro-4-methyl-benzene
To a solution of 2-chloro-4-methylphenol (500 mg, 3.62 mmol) in acetonitrile (20 mL) was added 1,2-dibromoethane (3.29 g, 17.53 mmol) followed by cesium carbonate (2.28 g, 7.01 mmol). The resulting mixture was heated at 85° C. for 48 h, then cooled to rt. The solution was filtered through a Celite® pad. The Celite® was washed with acetone and the combined eluents were concentrated under reduced pressure to give the title compound as a white solid (697 mg, 76%). GC/MS (EI) m/z 248 (M)+, RT 7.33 min.

reactant | 2-chloro-4-methylphenol | 3.62 mmol, 500 mg | ClC1=C(C=CC(=C1)C)O | C7H7ClO
reactant | 1,2-dibromoethane | 17.53 mmol, 3.29 g | BrCCBr | C2H4Br2
reactant | cesium carbonate | 7.01 mmol, 2.28 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 1-(2-bromo-ethoxy)-2-chloro-4-methyl-benzene | 697 mg, 76% | BrCCOC1=C(C=C(C=C1)C)Cl | C9H10BrClO
